US03985799
Into a flask equipped with stirrer, dropping funnel, carbon dioxide condenser and gas inlet tube are charged 100 g. (0.78 mole) of 2,4-difluoro-toluene and 500 ml. of dry tetrahydrofuran. The system is flushed with dry nitrogen and cooled (carbon dioxide-acetone bath) to an internal temperature of -50°C. A 585 ml. solution of 15% n-butyllithium (0.935 mole n-butyl-lithium) in hexane is added dropwise into a flask. The resulting dark red-purple solution is maintained at -50°C. for about one hour, and then poured onto a slurry of about 1000 g. of powdered carbon dioxide and about 100 ml. of diethyl ether. After standing for about 20 hours at room temperature the residue is treated with 250 ml. of 2N sodium hydroxide. The caustic layer is washed with toluene, acidified with concentrated HCl, and the white precipitate which forms is recrystallized from hot chloroform to give 2,6-difluoro-m-toluic acid; m.p. 139°-140°C.

reactant | 2,4-difluoro-toluene | 0.78 mole | FC1=C(C=CC(=C1)F)C | C7H6F2
reactant | n-butyllithium | 0.935 mole | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,6-difluoro-m-toluic acid | FC1=C(C(=CC=C1C(=O)O)F)C | C8H6F2O2
